US04731368
Step D: Preparation of 6-Hydroxythieno[3,2-b]pyridine
To a solution of 6-aminothieno[3,2-b]pyridine (2.5 g, 16.6 mmol) in water (22 ml) containing concentrated sulfuric acid (4.15 ml) and cooled at 0° C. was added dropwise with vigorous stirring a solution of sodium nitrite (1.26 g, 18.3 mmol) in water (7 ml) to give a copious yellow precipitate. This slurry was pipetted dropwise into 5% sulfuric acid (110 ml) maintained at 110° C. After an additional hour, the solution was cooled to room temperature and washed with methylene chloride. This aqueous solution was made basic with sodium hydroxide and washed again with methylene chloride to remove any unreacted starting material. The aqueous solution was then made neutral with hydrochloric acid and the precipitated product was extracted into chloroform/methanol, dried over anhydrous sodium sulfate and filtered through a pad of charcoal and the solvents were evaporated to give product (2.2 g) which was purified by crystallization from hot ethyl acetate/methanol to give pure product (1.81 g, 72% yield), m.p. 228°-230 ° C.

reactant | 6-aminothieno[3,2-b]pyridine | 16.6 mmol, 2.5 g | NC=1C=C2C(=NC1)C=CS2 | C7H6N2S
reactant | sulfuric acid | 4.15 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 18.3 mmol, 1.26 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 110 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 22 ml | O | H2O
solvent | water | 7 ml | O | H2O
product | 6-Hydroxythieno[3,2-b]pyridine | 2.2 g | OC=1C=C2C(=NC1)C=CS2 | C7H5NOS
